US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2-(4-ethylbenzyl) benzo[b]thiophene-3-sulfonamide was prepared by the method of Example 41 using 4-bromo-3-methyl-5-aminoisoxazole (1.0 mmoles, 0.177 g), NaH (2.5 mmoles, 100 mg), 2-(4-ethylbenzyl)benzo[b]thiophene-3-sulfonyl chloride (1.2 mmoles, 0.42 g) and THF (6 ml). Flash chromatography (50% ethyl acetate/hexanes) followed by recrystallization from chloroform and hexanes provided 0.21 g (43%) of a tan solid, m.p. 128°-130° C.

reactant | 4-bromo-3-methyl-5-aminoisoxazole | 1.0 mmoles, 0.177 g | BrC=1C(=NOC1N)C | C4H5BrN2O
reactant | NaH | 2.5 mmoles, 100 mg | [H-].[Na+]
reactant | 2-(4-ethylbenzyl)benzo[b]thiophene-3-sulfonyl chloride | 1.2 mmoles, 0.42 g | C(C)C1=CC=C(CC2=C(C3=C(S2)C=CC=C3)S(=O)(=O)Cl)C=C1 | C17H15ClO2S2
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2-(4-ethylbenzyl) benzo[b]thiophene-3-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C=1C2=C(SC1CC1=CC=C(C=C1)CC)C=CC=C2)C | C21H19BrN2O3S2
